US06908913B2
7-[[5-(Morpholin-4-yl)methylpyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole (384 mg) was prepared in substantially the same manner as in step a) of Synthesis Example 5, except that 1.05 g of 4-(5-bromopyridin-3-yl)methylmorpholine, 2.70 ml of a 1.59 N nbutyllithium/n-hexane solution, and 426 mg of 7-formylimidazo[5,1-b]thiazole were used as the starting materials.

reactant | 4-(5-bromopyridin-3-yl)methylmorpholine | 1.05 g | BrC=1C=C(C=NC1)CN1CCOCC1 | C10H13BrN2O
reactant | 7-formylimidazo[5,1-b]thiazole | 426 mg | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
solvent | n-hexane | CCCCCC | C6H14
product | 7-[[5-(Morpholin-4-yl)methylpyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole | 384 mg | N1(CCOCC1)CC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C16H18N4O2S
